US04670441
1.5 1,3-Dimethyl-5-[4-chloro-2-(2,6-dichlorophenoxy)phenylcarbamoyl]-2-thiobarbituric acid
15.5 g (0.09 mol) of 1,3-dimethyl-2-thiobarbituric acid, 8.8 g (1.1 mol) of pyridine and 0.9 g of 4-dimethylaminopyridine are dissolved in 65 ml of dichloromethane and the solution is cooled to 0° C. Then 10.2 g (0.094 mol) of ethyl chloroformate are added dropwise over 1 hours. The mixture is stirred for 12 hours at 0° C. and then for 7 hours at room temperature. The bulk of the solvent is evaporated off, a solution of 26.1 g (0.09 mol) of 4-chloro-2-(2,6-dichlorophenoxy)aniline in 360 ml of ethanol and 30 ml of dimethylformamide is added and the mixture is boiled under reflux with stirring for 6 hours. The reaction mixture is then cooled and the resultant crystalline precipitate is isolated by filtration and, if necessary, is recrystallised from dioxane/ethanol. Melting point 254°-257° C.

reactant | 1,3-dimethyl-2-thiobarbituric acid | 0.09 mol, 15.5 g | CN1C(=S)N(C(=O)CC1=O)C | C6H8N2O2S
reactant | pyridine | 1.1 mol, 8.8 g | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 0.094 mol, 10.2 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-chloro-2-(2,6-dichlorophenoxy)aniline | 0.09 mol, 26.1 g | ClC1=CC(=C(N)C=C1)OC1=C(C=CC=C1Cl)Cl | C12H8Cl3NO
catalyst | 4-dimethylaminopyridine | 0.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 65 ml | ClCCl | CH2Cl2
solvent | ethanol | 360 ml | C(C)O | C2H6O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1,3-Dimethyl-5-[4-chloro-2-(2,6-dichlorophenoxy)phenylcarbamoyl]-2-thiobarbituric acid | CN1C(=S)N(C(=O)C(C1=O)C(NC1=C(C=C(C=C1)Cl)OC1=C(C=CC=C1Cl)Cl)=O)C | C19H14Cl3N3O4S
